US07705004B2
A mixture of 2-chloro-N-(1-methyl-1H-indazol-6-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (90 mg, 0.20 mmol), 4-aminobenzamide (55 mg, 0.40 mmol) and TMSCl (0.200 mL, 1.58 mmol) in nBuOH (2 mL) was stirred at 135° C. for 44 h. nBuOH was removed in vacuo. The residue was purified by HPLC to give 4-(4-(1-methyl-1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide (12 mg).

reactant | 2-chloro-N-(1-methyl-1H-indazol-6-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.20 mmol, 90 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C1C=NN(C1=C2)C | C21H17ClN6O2S
reactant | 4-aminobenzamide | 0.40 mmol, 55 mg | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
reactant | TMSCl | 1.58 mmol, 0.200 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 2 mL | C(CCC)O | C4H10O
product | 4-(4-(1-methyl-1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide | 12 mg | CN1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C(=O)N)C=C1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C28H24N8O3S
